US09084794B2
b) Methyl 3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-3-(2-fluoro-4-(quinolin-7-yl)phenyl)propanoate
A solution of methyl 3-(4-bromo-2-fluorophenyl)-3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)propanoate (1.924 mmol) in 1,4-dioxane (6 mL) was treated with 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (2.116 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.096 mmol) and 2M aq potassium carbonate (5.77 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture was irradiated in a Biotage Initiator Microwave at 120° C. for 15 min. The resulting black mixture was diluted with water (50 mL) and extracted with dichloromethane three times. The combined organic layer was treated with Silicycle Si-thiol (100 mg), dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-7% methanol/dichloromethane) afforded the title compound as a brown solid (802 mg, 72% yield). MS(ES)+ m/e 518.4 [M+H]+.

reactant | methyl 3-(4-bromo-2-fluorophenyl)-3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)propanoate | 1.924 mmol | BrC1=CC(=C(C=C1)C(CC(=O)OC)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C21H26BrFN2O4
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 2.116 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | potassium carbonate | 5.77 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.096 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | Methyl 3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-3-(2-fluoro-4-(quinolin-7-yl)phenyl)propanoate | 802 mg, 72% yield | C1(CC1)N1C(COC2(C1)CCN(CC2)C(CC(=O)OC)C2=C(C=C(C=C2)C2=CC=C1C=CC=NC1=C2)F)=O | C30H32FN3O4
